US05883251
2-carboethoxycyclohexanone (1 mmol), finely powdered potassium carbonate (2 mmol), 2-bromomethyltetrahydrofuran (1.5 mmol), and tetrabutylammonium iodide (10 mg/mmol) are combined in dry DMF (1.25 mL/mmol) and stirred under N2 at 55° to 60° C. for 16 to 18 hours. The room temperature reaction mixture is poured into water and extracted with Et2O and EtOAc. The combined organics are washed with brine, dried, and stripped of all solvent under reduced pressure to provide 2-tetrahydrofuranylmethyl-2-carboethoxycyclohexanone. This material is combined with lithium chloride (5 mmol), water (1.05 mmol) and dimethyl sulfoxide (5 mL/mmol) and the mixture refluxed for approximately 4 hrs. The mixture is poured into water and extracted with Et2O and EtOAc. The combined organics are washed with brine, dried, and stripped of all solvent under reduced pressure to generate the title material.

reactant | 2-carboethoxycyclohexanone | 1 mmol | C(=O)(OCC)C1C(CCCC1)=O | C9H14O3
reactant | potassium carbonate | 2 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromomethyltetrahydrofuran | 1.5 mmol | BrCC1OCCC1 | C5H9BrO
reactant | water | O | H2O
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-tetrahydrofuranylmethyl-2-carboethoxycyclohexanone | O1C(CCC1)CC1(C(CCCC1)=O)C(=O)OCC | C14H22O4
